US06008230
To a solution of ammonium chloride (50.9 mg) in water (2 ml) was added ethanol (10 ml), and the mixture was stirred at 50° C. To the mixture were added 3-bromo-8-(2-nitrobenzoylamino)quinoline (590 mg) and iron (531 mg), and the mixture was refluxed for 1 hour. After filtration, the filtrate was concentrated in vacuo, and the residue was suspended in hot 80% ethanol and allowed to cool to ambient temperature. The resulting precipitates were collected by filtration to give 8-(2-aminobenzoylamino)-3-bromoquinoline (470 mg) as pale tan solid.

reactant | ammonium chloride | 50.9 mg | [Cl-].[NH4+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 3-bromo-8-(2-nitrobenzoylamino)quinoline | 590 mg | BrC=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C16H10BrN3O3
solvent | water | 2 ml | O | H2O
catalyst | iron | 531 mg | [Fe] | Fe
product | 8-(2-aminobenzoylamino)-3-bromoquinoline | 470 mg | NC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)Br)C=CC=C1 | C16H12BrN3O
